US05952324
Step 2: N-(carbobenzyloxy)-4-[(1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl]-3-fluoroaniline
A solution of 4-[(1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl]-3-fluoronitrobenzene (0.160 g, 0.672 mmol) in 3:1 THF/H2O (4 mL) was treated with acetic acid (0.115 mL) and then 10% palladium/carbon (0.020 g) under a N2 stream. The atmosphere was replaced with H2 (balloon) by repeated evacuation and filling and the mixture stirred at ambient temperature. After 2 h, TLC analysis (6% CH3CN/CHCl3) revealed the reduction to be complete. The reaction mixture was filtered through Celite® and the filtrate immediately placed under an atmosphere of N2 and treated with K2CO3 (0.464 g, 3.36 mmol) followed by benzyl chloroformate (0.117 mL, 0.864 mmol). TLC analysis (6% CH3CN/CHCl3) after 0.5 h revealed the reaction to be complete. The reaction mixture was concentrated under reduced pressure and chromatographed over silica gel (20 g), eluting with a gradient of 1-5% CH3CN/CHCl3. Concentration of appropriate fractions afforded 0.226 g (98%) of the title compound as a white solid with mp 120-121° C. and MS(EI) 342 (M+).

reactant | 4-[(1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl]-3-fluoronitrobenzene | 0.672 mmol, 0.160 g | [C@@H]12OC[C@@H](N(C1)C1=C(C=C(C=C1)[N+](=O)[O-])F)C2 | C11H11FN2O3
reactant | THF H2O | 4 mL | C1CCOC1.O
reactant | K2CO3 | 3.36 mmol, 0.464 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl chloroformate | 0.864 mmol, 0.117 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
catalyst | palladium/carbon | 0.020 g | [Pd] | Pd
solvent | CH3CN CHCl3 | CC#N.C(Cl)(Cl)Cl
solvent | acetic acid | 0.115 mL | C(C)(=O)O | C2H4O2
product | N-(carbobenzyloxy)-4-[(1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl]-3-fluoroaniline | 0.226 g, 98% | C(=O)(OCC1=CC=CC=C1)NC1=CC(=C(C=C1)N1[C@@H]2CO[C@H](C1)C2)F | C19H19FN2O3
